US08492405B2
To a mixture of N-methyl-N-[2-methyl-5-(1-thia-3,8-diazaspiro[4.5]deca-2-en-2-yl)-4H-thieno[3,2-b]pyrrol-3-yl]thiophene-2-sulfonamide (180 mg), triethylamine (78 μL) and tetrahydrofuran (5 mL) was added acetyl chloride (32 μL), and the mixture was stirred at room temperature for 10 min. The reaction mixture was concentrated, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give N-[5-(8-acetyl-1-thia-3,8-diazaspiro[4.5]deca-2-en-2-yl)-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl]-N-methylthiophene-2-sulfonamide (115 mg, yield 57%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 231° C.

reactant | N-methyl-N-[2-methyl-5-(1-thia-3,8-diazaspiro[4.5]deca-2-en-2-yl)-4H-thieno[3,2-b]pyrrol-3-yl]thiophene-2-sulfonamide | 180 mg | CN(S(=O)(=O)C=1SC=CC1)C1=C(SC2=C1NC(=C2)C=2SC1(CN2)CCNCC1)C | C19H22N4O2S4
reactant | triethylamine | 78 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 32 μL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[5-(8-acetyl-1-thia-3,8-diazaspiro[4.5]deca-2-en-2-yl)-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl]-N-methylthiophene-2-sulfonamide | 115 mg, yield 57% | C(C)(=O)N1CCC2(CN=C(S2)C2=CC3=C(N2)C(=C(S3)C)N(S(=O)(=O)C=3SC=CC3)C)CC1 | C21H24N4O3S4
